US09340555B2
To a stirred solution of 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-(3-oxopropyl)thieno[3,2-b]pyridine-2-carboxamide (150 mg, 0.29 mmol) in 10 ml of anhydrous DMF was added L-proline methyl ester hydrochloride (96 mg, 0.58 mmol) and triethylamine (58 mg, 0.58 mmol). The mixture was stirred at room temperature under nitrogen for one hour, and 1M solution of sodium cyanoborohydride in THF (0.60 ml, 0.60 mmol) was added. The mixture was stirred for another hour, and poured into 100 ml of water. The precipitates were filtered, washed with water and dried in vacuo to give the crude product, which was purified by silica gel chromatography eluting with 2˜3% of methanol in chloroform to afford methyl 1-{3-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]propyl}pyrrolidine-2-carboxylate as white solid. Yield: 90 mg, 50%.

reactant | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-(3-oxopropyl)thieno[3,2-b]pyridine-2-carboxamide | 0.29 mmol, 150 mg | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCC=O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C25H20F2N4O4S
reactant | L-proline methyl ester hydrochloride | 0.58 mmol, 96 mg | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 0.58 mmol, 58 mg | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | THF | 0.60 mmol, 0.60 ml | C1CCOC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | methyl 1-{3-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]propyl}pyrrolidine-2-carboxylate | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCCN3C(CCC3)C(=O)OC)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C31H31F2N5O5S
